US03939267
The mixture of 2.5 g of 4-phenoxy-3-benzylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid and 25 ml of 2N aqueous sodium hydroxide is refluxed for four hours under nitrogen. After cooling to room temperature it is filtered, the filtrate acidified with glacial acetic acid to pH = 2 and the precipitate recrystallized from ethanol, to yield the 4-phenoxy-3-benzylamino-5-(2-aminophenylsulfamoyl)-benzoic acid of the formula ##SPC14##

reactant | 4-phenoxy-3-benzylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid | 2.5 g | O(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)NCC1=CC=CC=C1 | C28H25N3O6S
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
product | 4-phenoxy-3-benzylamino-5-(2-aminophenylsulfamoyl)-benzoic acid | O(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)N)(=O)=O)NCC1=CC=CC=C1 | C26H23N3O5S
